US05932590
Preparation of 4-{3-[(S)-1,2,3,4-tetrahydro-isoquinolin-3-yl-methyl]-3H-imidazol-4-yl-methyl}-benzonitrile
A solution of 4-{3-[2-(allyl)-(S)-1,2,3,4-tetrahydro-isoquinolin-3-yl-methyl]-3H-imidazol-4-yl-methyl}-benzonitrile (0.56 g, 1.52 mmol) in 7 ml degassed methylene chloride was added to palladium tetrakistriphenylphosphine (0.045 g, 0.04 mmol) and 1,3-dimethylbarbituric acid (0.712 g, 4.56 mmol) under argon atmosphere. The resulting solution was heated at 35° C. for 3 hr. The mixture was partitioned with methylene chloride, saturated sodium carbonate and water. The methylene chloride layer was dried with saturated sodium chloride and magnesium sulfate. The methylene chloride was removed in vacuo to obtain the title compound as an oil which was used in the next step without further purification.

reactant | 4-{3-[2-(allyl)-(S)-1,2,3,4-tetrahydro-isoquinolin-3-yl-methyl]-3H-imidazol-4-yl-methyl}-benzonitrile | 1.52 mmol, 0.56 g | C(C=C)N1CC2=CC=CC=C2C[C@H]1CN1C=NC=C1CC1=CC=C(C#N)C=C1 | C24H24N4
reactant | 1,3-dimethylbarbituric acid | 4.56 mmol, 0.712 g | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-{3-[(S)-1,2,3,4-tetrahydro-isoquinolin-3-yl-methyl]-3H-imidazol-4-yl-methyl}-benzonitrile | C1N[C@@H](CC2=CC=CC=C12)CN1C=NC=C1CC1=CC=C(C#N)C=C1 | C21H20N4
